US05686445
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methylbenzamide
To a solution of 0.27 g (1 mmol) of 4-[(2-methylbenzoyl)amino]benzoyl chloride in 2 ml of tetrahydrofuran is added 0.20 g (1 mmol) of 6,11-dihydro-5H-dibenz[b,e]azepine and 0.20 g of triethylamine. The mixture is stirred at room temperature for 3 hours and the solvent removed under vacuum. To the residue is added 1N HCl and the mixture extracted with ethyl acetate (20 ml) and the extract washed with saturated NaHCO3, brine and dried (Na2SO4). The solution is filtered through a thin pad of hydrous magnesium silicate and the filtrate evaporated. The residue is triturated with ether-hexane and filtered to give 0.47 g of a white solid: Mass Spectrum; EI 433 (M+1); EI-high resolution 432.1842.

reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 1 mmol, 0.27 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | 6,11-dihydro-5H-dibenz[b,e]azepine | 1 mmol, 0.20 g | C1=CC=CC=2NCC3=C(CC21)C=CC=C3 | C14H13N
reactant | triethylamine | 0.20 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]phenyl]-2-methylbenzamide | 0.47 g | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=CC=C(C=C3)NC(C3=C(C=CC=C3)C)=O | C29H24N2O2
